US07659284B2
4-nitrobenzyl chloride Compound 1n1 (4.0 g, 23.3 mmol) and pyrrolidine Compound 1n2 (4.8 mL, 58.3 mmol) were combined in THF (50 mL) at ambient temperature. After 18 hr, the reaction was diluted with 10% NH4Cl and extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered and evaporated in vacuo to provide 1-(4-nitrobenzyl)-pyrrolidine Compound 1n3 (4.7 g) as a pale yellow oil without further purification (prepared as described in Mitsuru Shiraishi, et al., J. Med. Chem., 2000, 43, 2049-2063). 1H NMR (CDCl3) δ 8.17 (d, J=8.6 Hz, 2H); 7.51 (d, J=8.6 Hz, 2H); 3.72 (s, 2H); 2.58-2.48 (m, 4H); 1.89-1.72 (m, 4H).

reactant | 4-nitrobenzyl chloride | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
reactant | pyrrolidine | N1CCCC1 | C4H9N
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
product | 1-(4-nitrobenzyl)-pyrrolidine | [N+](=O)([O-])C1=CC=C(CN2CCCC2)C=C1 | C11H14N2O2
